Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[c:1]1[cH:2][cH:3][c:4]([S:5]([NH:6][CH:7]([CH3:8])[CH3:9])(=[O:10])=[O:11])[cH:12][c:13]1[C:14](=[O:15])[OH:16].[CH2:17]1[CH2:18][CH2:19][NH:20][CH2:21]1>>[c:1]1([N:20]2[CH2:19][CH2:18][CH2:17][CH2:21]2)[cH:2][cH:3][c:4]([S:5]([NH:6][CH:7]([CH3:8])[CH3:9])(=[O:10])=[O:11])[cH:12][c:13]1[C:14](=[O:15])[OH:16],[Cl:101][c:1]1[cH:2][cH:3][c:4]([S:5]([NH:6][CH:7]([CH3:8])[CH3:9])(=[O:10])=[O:11])[cH:12][c:13]1[C:14](=[O:15])[OH:16].[CH2:17]1[CH2:18][CH2:19][NH:20][CH2:21]1>>[c:1]1([N:20]2[CH2:19][CH2:18][CH2:17][CH2:21]2)[cH:2][cH:3][c:4]([S:5]([NH:6][CH:7]([CH3:8])[CH3:9])(=[O:10])=[O:11])[cH:12][c:13]1[C:14](=[O:15])[OH:16],SNAr(ortho),"[(20, 1), ([1, 13], [13, 14]), ([14, 15], 15), (15, [15, 14]), ([14, 13], [13, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
F[c:1]1[cH:2][cH:3][c:4]([CH:5]=[O:6])[n:7][cH:8]1.[OH:9][c:10]1[cH:11][cH:12][c:13]([F:14])[c:15]([C:16]([F:17])([F:18])[F:19])[cH:20]1>>[c:1]1([O:9][c:10]2[cH:11][cH:12][c:13]([F:14])[c:15]([C:16]([F:17])([F:18])[F:19])[cH:20]2)[cH:2][cH:3][c:4]([CH:5]=[O:6])[n:7][cH:8]1,[OH:9][c:10]1[cH:11][cH:12][c:13]([F:14])[c:15]([C:16]([F:17])([F:18])[F:19])[cH:20]1.[F:101][c:1]1[cH:2][cH:3][c:4]([CH:5]=[O:6])[n:7][cH:8]1.[H-:301].[Na+]>>[c:1]1([O:9][c:10]2[cH:11][cH:12][c:13]([F:14])[c:15]([C:16]([F:17])([F:18])[F:19])[cH:20]2)[cH:2][cH:3][c:4]([CH:5]=[O:6])[n:7][cH:8]1,SNAr_alco(thi)ol(para),"[(301, 9.1), ([9.1, 9], 9), (9, 1), ([1, 8], [8, 7]), ([7, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 7]), ([7, 8], [8, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)[NH:1][CH2:2][CH2:3][CH2:4][N:5]1[CH2:6][CH2:7][CH2:8][C@@H:9]1[CH2:10][n:11]1[n:12][c:13]([CH2:14][c:15]2[cH:21][cH:20][c:18]([Cl:19])[cH:17][cH:16]2)[c:22]2[cH:23][cH:24][cH:25][cH:26][c:27]2[c:28]1=[O:29]>>[NH2:1][CH2:2][CH2:3][CH2:4][N:5]1[CH2:6][CH2:7][CH2:8][C@@H:9]1[CH2:10][n:11]1[n:12][c:13]([CH2:14][c:15]2[cH:16][cH:17][c:18]([Cl:19])[cH:20][cH:21]2)[c:22]2[cH:23][cH:24][cH:25][cH:26][c:27]2[c:28]1=[O:29],[CH3:202][C:203]([CH3:204])([CH3:205])[O:206][C:101](=[O:201])[NH:1][CH2:2][CH2:3][CH2:4][N:5]1[CH2:6][CH2:7][CH2:8][C@@H:9]1[CH2:10][n:11]1[n:12][c:13]([CH2:14][c:15]2[cH:16][cH:17][c:18]([Cl:19])[cH:20][cH:21]2)[c:22]2[cH:23][cH:24][cH:25][cH:26][c:27]2[c:28]1=[O:29].[H+:301]>>[NH2:1][CH2:2][CH2:3][CH2:4][N:5]1[CH2:6][CH2:7][CH2:8][C@@H:9]1[CH2:10][n:11]1[n:12][c:13]([CH2:14][c:15]2[cH:16][cH:17][c:18]([Cl:19])[cH:20][cH:21]2)[c:22]2[cH:23][cH:24][cH:25][cH:26][c:27]2[c:28]1=[O:29],Boc_deprotection,"[(201, 301), ([203, 206], [206, 101]), ([101, 201], 201), (1, 201.1), ([201.1, 201], 201), (201, [201, 101]), ([101, 1], 1), ([202.1, 202], [202, 203])]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7]2[c:8]([Cl:9])[n:10][cH:11][n:12][c:13]12.[CH3:14][CH2:15][CH2:16][S:17](=[O:18])(=[O:19])[N:20]([CH2:21][c:22]1[cH:23][cH:24][c:25]([O:26][CH3:27])[cH:28][cH:29]1)[c:30]1[cH:31][cH:32][c:33]([F:34])[c:35]([NH2:36])[c:37]1[O:38][CH3:39]>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7]2[c:8]([Cl:9])[n:10][cH:11][n:12][c:13]12)[NH:36][c:35]1[c:33]([F:34])[cH:32][cH:31][c:30]([N:20]([S:17]([CH2:16][CH2:15][CH3:14])(=[O:18])=[O:19])[CH2:21][c:22]2[cH:23][cH:24][c:25]([O:26][CH3:27])[cH:28][cH:29]2)[c:37]1[O:38][CH3:39],[CH3:14][CH2:15][CH2:16][S:17](=[O:18])(=[O:19])[N:20]([CH2:21][c:22]1[cH:23][cH:24][c:25]([O:26][CH3:27])[cH:28][cH:29]1)[c:30]1[cH:31][cH:32][c:33]([F:34])[c:35]([NH2:36])[c:37]1[O:38][CH3:39].[Cl:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][c:7]2[c:8]([Cl:9])[n:10][cH:11][n:12][c:13]12>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][c:7]2[c:8]([Cl:9])[n:10][cH:11][n:12][c:13]12)[NH:36][c:35]1[c:33]([F:34])[cH:32][cH:31][c:30]([N:20]([S:17]([CH2:16][CH2:15][CH3:14])(=[O:18])=[O:19])[CH2:21][c:22]2[cH:23][cH:24][c:25]([O:26][CH3:27])[cH:28][cH:29]2)[c:37]1[O:38][CH3:39],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(36, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
